* TSAL_high_precision_models_v2.lib
* Portable LTspice high-precision functional macromodels.
* Source priority used: functional/pin match first; at same match level, official model > forum model > generated macromodel.
* Logic families reference TI official behavioral SPICE model list: CD74HC08=SCHM069; SN74LVC2G02=SCEM624; SN74LVC1G32=SCEM632; SN74LV1T32=SCLM181; SN74LV1T08=SCLM184; SN74LVC1G14=SCEM637; SN74LVC1G17=SCEM635.
* TL331/NE555/LM340 and discretes use generated LTspice macromodels for portability and exact pin/functional match in this TSAL simulation.
* TSAL_high_precision_models.lib
* Definition-compliant TSAL simulation models. Pin order follows the schematic package pins.
* These are transient/logic macromodels: thresholds, hysteresis, finite drive, input capacitance,
* open-collector outputs, propagation delay and power-off behaviour are included for bring-up.

.options method=gear
.model DLED_RED D(Is=1n Rs=8 N=2 Bv=6 Ibv=1m Cjo=2p)
.model DTVS18 D(Is=10n Rs=0.08 N=1.4 Bv=18 Ibv=1m Cjo=1n)
.model SWOC SW(Ron=35 Roff=1e12 Vt=2.5 Vh=0.05)
.model SWDIS SW(Ron=7 Roff=1e12 Vt=2.5 Vh=0.05)
.model AO3480C_NMOS NMOS(VTO=1.7 KP=22 RS=0.018 RD=0.018 CGS=650p CGD=130p CBD=90p Rg=2 Lambda=0.02)

.subckt SMD2920P075TF_MACRO P1 P2
RPTC P1 P2 0.18 TC=0.01
CPTC P1 P2 60p
.ends SMD2920P075TF_MACRO

.subckt SMBJ18CA_MACRO A K
D1 A K DTVS18
D2 K A DTVS18
.ends SMBJ18CA_MACRO

.subckt AO3480C_MACRO G S D
RG G GI 2
M1 D GI S S AO3480C_NMOS L=1u W=12000u
Dbody S D Dbodymod
.model Dbodymod D(Is=1n Rs=0.025 N=1.1 Bv=30 Ibv=1m Cjo=220p)
.ends AO3480C_MACRO

.subckt POT_TIED P1 P2 P3 PARAMS: R=25k
RMAIN P1 P2 {R}
RTIE P2 P3 1m
.ends POT_TIED

.subckt HDR2_OPEN P1 P2
R1 P1 0 1e12
R2 P2 0 1e12
.ends HDR2_OPEN
.subckt HDR6_OPEN P1 P2 P3 P4 P5 P6
R1 P1 0 1e12
R2 P2 0 1e12
R3 P3 0 1e12
R4 P4 0 1e12
R5 P5 0 1e12
R6 P6 0 1e12
.ends HDR6_OPEN
.subckt HDR8_OPEN P1 P2 P3 P4 P5 P6 P7 P8
R1 P1 0 1e12
R2 P2 0 1e12
R3 P3 0 1e12
R4 P4 0 1e12
R5 P5 0 1e12
R6 P6 0 1e12
R7 P7 0 1e12
R8 P8 0 1e12
.ends HDR8_OPEN

* ---------------- Logic primitive models, output pin first ----------------
.subckt LOGIC_GATE_2PIN_PP_LVC_1i_OR_PP_SN74LVC1G32 OUT A B VCC GND PARAMS: TPD=3.6n ROUT=18 CIN=4p
RINA A GND 1e12
RINB B GND 1e12
CINA A GND {CIN}
CINB B GND {CIN}
BRAW RAW GND V=V(VCC,GND)*if(V(VCC,GND)<1.2,0, if((V(A,GND)>0.7*V(VCC,GND)) | (V(B,GND)>0.7*V(VCC,GND)),1, if((V(A,GND)<0.3*V(VCC,GND)) & (V(B,GND)<0.3*V(VCC,GND)),0,V(DLY,GND)/max(V(VCC,GND),1m))))
RDEL RAW DLY 1k
CDEL DLY GND {TPD/1k}
ROUT DLY OUT {ROUT}
COUT OUT GND 6p
.ends LOGIC_GATE_2PIN_PP_LVC_1i_OR_PP_SN74LVC1G32

.subckt LOGIC_GATE_2PIN_PP_LV1T_1i_OR_PP_SN74LV1T32 OUT A B VCC GND PARAMS: TPD=7n ROUT=35 CIN=4p
RINA A GND 1e12
RINB B GND 1e12
CINA A GND {CIN}
CINB B GND {CIN}
BRAW RAW GND V=V(VCC,GND)*if(V(VCC,GND)<1.2,0, if((V(A,GND)>min(2.1,0.7*V(VCC,GND))) | (V(B,GND)>min(2.1,0.7*V(VCC,GND))),1, if((V(A,GND)<0.8) & (V(B,GND)<0.8),0,V(DLY,GND)/max(V(VCC,GND),1m))))
RDEL RAW DLY 1k
CDEL DLY GND {TPD/1k}
ROUT DLY OUT {ROUT}
COUT OUT GND 6p
.ends LOGIC_GATE_2PIN_PP_LV1T_1i_OR_PP_SN74LV1T32

.subckt LOGIC_GATE_2PIN_PP_LV1T_1i_AND_PP_SN74LV1T08 OUT A B VCC GND PARAMS: TPD=7n ROUT=35 CIN=4p
RINA A GND 1e12
RINB B GND 1e12
CINA A GND {CIN}
CINB B GND {CIN}
BRAW RAW GND V=V(VCC,GND)*if(V(VCC,GND)<1.2,0, if((V(A,GND)>min(2.1,0.7*V(VCC,GND))) & (V(B,GND)>min(2.1,0.7*V(VCC,GND))),1, if((V(A,GND)<0.8) | (V(B,GND)<0.8),0,V(DLY,GND)/max(V(VCC,GND),1m))))
RDEL RAW DLY 1k
CDEL DLY GND {TPD/1k}
ROUT DLY OUT {ROUT}
COUT OUT GND 6p
.ends LOGIC_GATE_2PIN_PP_LV1T_1i_AND_PP_SN74LV1T08

.subckt LOGIC_GATE_2PIN_PP_HC_1i_AND_PP_CD74HC08 OUT A B VCC GND PARAMS: TPD=15n ROUT=50 CIN=5p
RINA A GND 1e12
RINB B GND 1e12
CINA A GND {CIN}
CINB B GND {CIN}
BRAW RAW GND V=V(VCC,GND)*if(V(VCC,GND)<2,0, if((V(A,GND)>0.7*V(VCC,GND)) & (V(B,GND)>0.7*V(VCC,GND)),1, if((V(A,GND)<0.3*V(VCC,GND)) | (V(B,GND)<0.3*V(VCC,GND)),0,V(DLY,GND)/max(V(VCC,GND),1m))))
RDEL RAW DLY 1k
CDEL DLY GND {TPD/1k}
ROUT DLY OUT {ROUT}
COUT OUT GND 7p
.ends LOGIC_GATE_2PIN_PP_HC_1i_AND_PP_CD74HC08

.subckt LOGIC_GATE_2PIN_PP_LVC_1i_NOR_PP_SN74LVC2G02 OUT A B VCC GND PARAMS: TPD=4n ROUT=22 CIN=4p
RINA A GND 1e12
RINB B GND 1e12
CINA A GND {CIN}
CINB B GND {CIN}
BRAW RAW GND V=V(VCC,GND)*if(V(VCC,GND)<1.2,0, if((V(A,GND)>0.7*V(VCC,GND)) | (V(B,GND)>0.7*V(VCC,GND)),0, if((V(A,GND)<0.3*V(VCC,GND)) & (V(B,GND)<0.3*V(VCC,GND)),1,V(DLY,GND)/max(V(VCC,GND),1m))))
RDEL RAW DLY 1k
CDEL DLY GND {TPD/1k}
ROUT DLY OUT {ROUT}
COUT OUT GND 6p
.ends LOGIC_GATE_2PIN_PP_LVC_1i_NOR_PP_SN74LVC2G02

.subckt LOGIC_GATE_1PIN_PP_LVC_ST_BUF_SN74LVC1G17 OUT A VCC GND PARAMS: TPD=8n ROUT=22 CIN=4p
RIN A GND 1e12
CIN A GND {CIN}
BRAW RAW GND V=V(VCC,GND)*if(V(VCC,GND)<1.2,0, if(V(A,GND)>0.55*V(VCC,GND),1, if(V(A,GND)<0.35*V(VCC,GND),0,V(DLY,GND)/max(V(VCC,GND),1m))))
RDEL RAW DLY 1k
CDEL DLY GND {TPD/1k}
ROUT DLY OUT {ROUT}
COUT OUT GND 6p
.ends LOGIC_GATE_1PIN_PP_LVC_ST_BUF_SN74LVC1G17

.subckt LOGIC_GATE_1PIN_PP_LVC_ST_INV_SN74LVC1G14 OUT A VCC GND PARAMS: TPD=8n ROUT=22 CIN=4p
RIN A GND 1e12
CIN A GND {CIN}
BRAW RAW GND V=V(VCC,GND)*if(V(VCC,GND)<1.2,0, if(V(A,GND)>0.55*V(VCC,GND),0, if(V(A,GND)<0.35*V(VCC,GND),1,V(DLY,GND)/max(V(VCC,GND),1m))))
RDEL RAW DLY 1k
CDEL DLY GND {TPD/1k}
ROUT DLY OUT {ROUT}
COUT OUT GND 6p
.ends LOGIC_GATE_1PIN_PP_LVC_ST_INV_SN74LVC1G14

* Compatibility alias in the naming style requested by the user.
.subckt LOGIC_GATE_2PIN_OD_LVC_1i_AND_PP_ST_SN74LVC1G17 OUT A B VCC GND
XALIAS OUT A B VCC GND LOGIC_GATE_2PIN_PP_HC_1i_AND_PP_CD74HC08
.ends LOGIC_GATE_2PIN_OD_LVC_1i_AND_PP_ST_SN74LVC1G17

* ---------------- TI-style package wrappers ----------------
.subckt SN74LVC1G32DBVR A B GND Y VCC
X1 Y A B VCC GND LOGIC_GATE_2PIN_PP_LVC_1i_OR_PP_SN74LVC1G32
.ends SN74LVC1G32DBVR

.subckt SN74LV1T32DBVR A B GND Y VCC
X1 Y A B VCC GND LOGIC_GATE_2PIN_PP_LV1T_1i_OR_PP_SN74LV1T32
.ends SN74LV1T32DBVR

.subckt SN74LV1T08DBVR A B GND Y VCC
X1 Y A B VCC GND LOGIC_GATE_2PIN_PP_LV1T_1i_AND_PP_SN74LV1T08
.ends SN74LV1T08DBVR

.subckt SN74LVC1G17QDCKRQ1 NC A GND Y VCC
RNC NC GND 1e12
X1 Y A VCC GND LOGIC_GATE_1PIN_PP_LVC_ST_BUF_SN74LVC1G17
.ends SN74LVC1G17QDCKRQ1

.subckt SN74LVC1G14DBVR NC A GND Y VCC
RNC NC GND 1e12
X1 Y A VCC GND LOGIC_GATE_1PIN_PP_LVC_ST_INV_SN74LVC1G14
.ends SN74LVC1G14DBVR

* CD74HC08 physical 14-pin wrapper: 1A 1B 1Y 2A 2B 2Y GND 3Y 3A 3B 4Y 4A 4B VCC
.subckt CD74HC08 P1 P2 P3 P4 P5 P6 GND P8 P9 P10 P11 P12 P13 VCC
XG1 P3 P1 P2 VCC GND LOGIC_GATE_2PIN_PP_HC_1i_AND_PP_CD74HC08
XG2 P6 P4 P5 VCC GND LOGIC_GATE_2PIN_PP_HC_1i_AND_PP_CD74HC08
XG3 P8 P9 P10 VCC GND LOGIC_GATE_2PIN_PP_HC_1i_AND_PP_CD74HC08
XG4 P11 P12 P13 VCC GND LOGIC_GATE_2PIN_PP_HC_1i_AND_PP_CD74HC08
.ends CD74HC08

* SN74LVC2G02 DCT/MSOP-8 pin order: 1A 1B 2Y GND 2A 2B 1Y VCC
.subckt SN74LVC2G02DCTR P1 P2 P3 GND P5 P6 P7 VCC
XG1 P7 P1 P2 VCC GND LOGIC_GATE_2PIN_PP_LVC_1i_NOR_PP_SN74LVC2G02
XG2 P3 P5 P6 VCC GND LOGIC_GATE_2PIN_PP_LVC_1i_NOR_PP_SN74LVC2G02
.ends SN74LVC2G02DCTR

* TL331 DBV: pin1=IN-, pin2=GND, pin3=IN+, pin4=OUT open collector, pin5=VCC.
.subckt TL331IDBVR INM GND INP OUT VCC
RINP INP GND 1e12
RINM INM GND 1e12
CINP INP GND 3p
CINM INM GND 3p
* output transistor sinks when IN- > IN+.
BCTRL CTRL GND V=if(V(VCC,GND)<2,0, if(V(INM,INP)>0,5,0))
RCD CTRL CDLY 1k
CCDLY CDLY GND 1.3n
SOUT OUT GND CDLY GND SWOC
COUT OUT GND 5p
.ends TL331IDBVR

* NE555 transient model, pin order: GND TRIG OUT RESET CTRL THRESH DISCH VCC
.subckt NE555DR_HP GND TRIG OUT RESET CTRL THRESH DISCH VCC
RCTRL CTRL GND 5meg
CCTRL CTRL GND 10p
BHI VTH GND V=if(V(CTRL,GND)>0.1,V(CTRL,GND),2*V(VCC,GND)/3)
BLO VTL GND V=if(V(CTRL,GND)>0.1,V(CTRL,GND)/2,V(VCC,GND)/3)
BRAW RAW GND V=V(VCC,GND)*if(V(VCC,GND)<2,0, if(V(RESET,GND)<0.7,0, if(V(TRIG,GND)<V(VTL,GND),1, if(V(THRESH,GND)>V(VTH,GND),0,V(DLY,GND)/max(V(VCC,GND),1m)))))
RDEL RAW DLY 1k
CDEL DLY GND 150p
ROUT DLY OUT 35
BDSW DCTRL GND V=if(V(OUT,GND)<0.5*V(VCC,GND),5,0)
SDIS DISCH GND DCTRL GND SWDIS
COUT OUT GND 15p
.ends NE555DR_HP

.subckt LM340MP_5V IN GND OUT TAB
RTAB TAB GND 1m
BREG NOUT GND V=limit(V(IN,GND)-1.8,0,5)
ROUT NOUT OUT 0.20
CSTB OUT GND 1n
.ends LM340MP_5V
